US04711890
N,N-dimethyl-2-phenylquinoline-4-carboxamide
2-Phenylquinoline-4-carboxylic acid chloride hydrochloride (10.7 g) is added in portions over a period of 1 hour to a stirred solution of N,N-dimethylamine (18.9 g) in methylene chloride (100 ml), cooled to 0° C. The mixture is stirred for 1 hour at 0° C. The solution is evaporated under reduced pressure. The residue is taken up in methylene chloride (100 ml). The organic phase is washed with water (3×100 ml), dried over magnesium sulphate and evaporated under reduced pressure.

reactant | 2-Phenylquinoline-4-carboxylic acid chloride hydrochloride | 10.7 g | Cl.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)Cl
reactant | N,N-dimethylamine | 18.9 g | CNC | C2H7N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-2-phenylquinoline-4-carboxamide | CN(C(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)C | C18H16N2O
